US07674822B2
Step A Reductive Amination: Addition of cyclohexane carboxaldehyde (0.063 mL, 0.61 mmol), to 7-Amino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (250 mg, 0.61 mmol) was carried out following a procedure similar to that delineated in step A (“reductive amination,” Example 25) affording 180 mg of 7-(Cyclohexylmethyl-amino)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester as a viscous yellow oil.

reactant | cyclohexane carboxaldehyde | 0.61 mmol, 0.063 mL | C1(CCCCC1)C=O | C7H12O
reactant | 7-Amino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.61 mmol, 250 mg | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)N)S1)OCC(=O)OCC | C16H15NO5S2
product | 7-(Cyclohexylmethyl-amino)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 180 mg | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)NCC2CCCCC2)S1)OCC(=O)OCC | C23H27NO5S2
